US08975264B2
Step 4: Preparation of (S)-(1-(7-(3-methylphenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-2-yl)methanol (Chemical Formula 68)
5-Chloro-7-(3-methylphenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidine (580 mg), DIPEA (0.4 mL) and (S)-2-pyrrolidinemethanol (400 mg) are stirred at 90° C. in an acetonitrile (60 mL) solvent for 6 hours. The reaction solvent is removed by distillation under reduced pressure. The remainder is purified by column chromatography to yield the target compound (360 mg). 1H NMR (CDCl3, 300 MHz): δ 7.67 (m, 2H), 7.40 (m, 2H), 7.27 (s, 1H), 6.10 (s, 1H), 4.48 (br, 1H), 3.88-3.55 (m, 4H), 2.44 (s, 3H), 2.38 (s, 3H), 2.08-1.97 (m, 3H), 1.76 (m, 1H).

reactant | 5-Chloro-7-(3-methylphenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidine | 580 mg | ClC1=NC=2N(C(=C1)C1=CC(=CC=C1)C)N=C(C2I)C | C14H11ClIN3
reactant | DIPEA | 0.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-pyrrolidinemethanol | 400 mg | N1[C@@H](CCC1)CO | C5H11NO
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | (S)-(1-(7-(3-methylphenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-2-yl)methanol | 360 mg | CC=1C=C(C=CC1)C1=CC(=NC=2N1N=C(C2I)C)N2[C@@H](CCC2)CO | C19H21IN4O
